2146-12-12 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Resp failure
   24 Hour Events:
 SPUTUM CULTURE - At [**2146-12-11**] 09:31 AM
 URINE CULTURE - At [**2146-12-11**] 09:35 AM
 NASAL SWAB - At [**2146-12-11**] 09:36 AM
 ARTERIAL LINE - START [**2146-12-11**] 03:13 PM
 EKG - At [**2146-12-11**] 04:00 PM
 EKG - At [**2146-12-12**] 06:10 AM
   Stopped tamiflu as DFA (-).
   Attempted vent wean in PM but tachypnic and desat on 5/0, so left on
   vent.
   Placed A-line
   Started tube feeds.
   Lots of NSVT after SBT trial.
   Allergies:
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2146-12-11**] 07:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2146-12-11**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2146-12-12**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-12-12**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 88 (69 - 88) bpm
   BP: 161/68(101) {105/48(66) - 161/70(101)} mmHg
   RR: 20 (10 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.9 kg (admission): 97.9 kg
   Height: 64 Inch
             Total In:
                                                                  2,570 mL
                                                                    450 mL
   PO:
             TF:
                                                                     31 mL
                                                                    172 mL
   IVF:
                                                                    329 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                    635 mL
                                                                    200 mL
   Urine:
                                                                    635 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,935 mL
                                                                    250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 322 (162 - 427) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 64
   PIP: 16 cmH2O
   Plateau: 22 cmH2O
   Compliance: 26.3 cmH2O/mL
   SpO2: 91%
   ABG: 7.35/75/73.[**Numeric Identifier 252**]/40/11
   Ve: 4 L/min
   PaO2 / FiO2: 243
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Rhonchorous: )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   199 K/uL
   9.5 g/dL
   107 mg/dL
   2.4 mg/dL
   40 mEq/L
   3.9 mEq/L
   49 mg/dL
   103 mEq/L
   149 mEq/L
   31.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2146-12-11**]  07:28 AM
                             [**2146-12-11**]  04:04 PM
                             [**2146-12-12**]  03:08 AM
                             [**2146-12-12**]  03:18 AM
                             [**2146-12-12**]  06:23 AM
   WBC
   5.6
   Hct
   31.1
   Plt
   199
   Cr
   2.4
   TCO2
   45
   41
   46
   43
   Glucose
   107
   Other labs: Lactic Acid:0.6 mmol/L, Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR [**12-12**]: Slightly worse right sided opacities. Stable
   retrocardiac opacity
   Microbiology: GRAM STAIN (Final [**2146-12-11**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Preliminary):
   DFA neg
   Blood/urine cx [**12-11**]: NGTD
   Urine Legionella: Pending
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O URINARY TRACT INFECTION (UTI)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   This is an 81 yo female with end-stage COPD, DM2, CRF, anemia of renal
   disease, diastolic CHF, h/o DVT, PMR, OA, OSA, h/o C diff who presents
   with hypercarbic respiratory failure.
   #Hypercarbic respiratory failure: History of CO2 retention with CO2s
   running 60s-70s. Has previously been on BiPap at night to control CO2
   but more recently found that O2 sats of 91-92% sleeping at an angle
   were sufficient on recent hospitalization. Unclear precipitant of
   current decompensation but may have recieved too much O2 at rehab.
   Course complicated by left retrocardiac opacity and possible pneumonia.
   -Ween vent with goal O2 sats 88-92%, recheck ABG, will retry SBT today
   -Prednisone 60mg daily
   -Standing nebs
   -Vanc/Cefepime for presumed HAP in LLL until cultures negative
   -F/U culture data
   .
   # NSVT: Likely from adrenergic surge.
   - Metoprolol 25 mg PO BID
   .
   # ARF: Baseline of 2.0 and currently improved from last discharge at
   3.2. Likely resolving ATN. Appears euvolemic. Urine lytes consistent
   with pre-renal
   -Avoid further nephrotoxins
   -Maintain euvolemia
   .
   # UTI: Previous E.coli UTI isolated on culture prior to discharge on
   last admission. Not covered by levofloxacin she was d/c'd on. Current
   U/A only mildly positive.
   -Cefepime as above
   -F/U culture
   .
   # Diastolic CHF: Appears euvolemic currently.
   -Restart half of home lasix to maintain euvolemia (80mg PO daily)
   .
   # DM2: RISS
   .
   # Depression: Con't Escitalopram
   .
   # GERD: Con't PPI
   .
   # Osteoporosis: Con't calcium and alendronate
   .
   # PMR: Will be covered by PO steroids, when tapered, only go to home
   dose of 10mg PO daily.
   .
   # FEN: IVFs / replete lytes prn / TF when ready
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  Full for "reversible" processes
   # CONTACT: [**Name (NI) 310**] [**Name (NI) 315**], Husband and HCP, [**Telephone/Fax (1) 10375**]
   # DISPO: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2146-12-11**] 10:28 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2146-12-11**] 03:13 PM
   20 Gauge - [**2146-12-11**] 04:21 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-12-12 09:09:00 Physician Attending Progress Note
Chief Complaint: COPD exacerbation and hypercarbic respiratory failure
   HPI:
    81yoF with h/o COPD, OSA, CHF; intubated for hypercarbic respiratory
   failure after several days of lethargy at her nursing home.
   24 Hour Events:
   Failed SBT yesterday morning.
   SBT this morning and did well in terms of oxygenation and RISB, but
   developed NSVT.
   Allergies:
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2146-12-11**] 07:00 AM
   Vancomycin
   Other ICU medications:
   Midazolam (Versed) - [**2146-12-11**] 03:00 PM
   Heparin Sodium (Prophylaxis) - [**2146-12-12**] 12:30 AM
   Other medications:
   Alendronate
   Fexofenadine
   Lexapro
   Insulin sliding scale
   Albuterol
   Prednisone
   Colace
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2146-12-12**] 08:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 88 (69 - 88) bpm
   BP: 161/68(101) {105/48(66) - 161/70(101)} mmHg
   RR: 20 (10 - 26) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.9 kg (admission): 97.9 kg
   Height: 64 Inch
             Total In:
                                                                  2,570 mL
                                                                    523 mL
   PO:
             TF:
                                                                     31 mL
                                                                    226 mL
   IVF:
                                                                    329 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                    635 mL
                                                                    200 mL
   Urine:
                                                                    635 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,935 mL
                                                                    323 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 322 (162 - 427) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 64
   PIP: 16 cmH2O
   Plateau: 22 cmH2O
   SpO2: 91%
   ABG: 7.35/75/73.[**Numeric Identifier 252**]/40/11
   Ve: 4 L/min
   PaO2 / FiO2: 243
   Physical Examination
   Gen: Opens eyes, follows commands.
   Chest: Clear anterior and superior posterior fields
   CV: RRR
   Abd: s/nt/nd
   Ext: minimal edema
   Labs / Radiology
   9.5 g/dL
   199 K/uL
   107 mg/dL
   2.4 mg/dL
   40 mEq/L
   3.9 mEq/L
   49 mg/dL
   103 mEq/L
   149 mEq/L
   31.1 %
   5.6 K/uL
        [image002.jpg]
                             [**2146-12-11**]  07:28 AM
                             [**2146-12-11**]  04:04 PM
                             [**2146-12-12**]  03:08 AM
                             [**2146-12-12**]  03:18 AM
                             [**2146-12-12**]  06:23 AM
   WBC
   5.6
   Hct
   31.1
   Plt
   199
   Cr
   2.4
   TCO2
   45
   41
   46
   43
   Glucose
   107
   Other labs: CK / CKMB / Troponin-T:20//, Lactic Acid:0.6 mmol/L,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Micro: negative at 24hours
   CXR: poor study, retrocardiac opacity, right lower lobe.
   Vancomycin level: 8.5
   Assessment and Plan
   81yoF with h/o COPD, diastolic CHF, OSA intubated for hypercarbic
   respiratory failure.
   1. Respiratory failure: likely COPD exacerbation vs. hyperoxia vs.
   discontinuation of her CPAP.
   - Repeat SBT today, plan to extubate.  Will monitor for arrhythmia and
   treat accordingly.
   - Restart home dose of lasix given a possible component of volume
   overload
   - Prednisone, albuterol/atrovent
   - Goal SpO2 88-92%
   - Will need nocturnal CPAP.
   2.  ID:  Currently being treated empirically for HCAP.
   - Await cultures at 48h, then discontinue
   - redose vancomycin today
   3.  CV:  Significant cardiac risks with CAD, h/o CHF
   - Treat NSVT with BB, lyte repletion
   - restaring home lasix
   ICU Care
   Nutrition:  Nutren Pulmonary (Full) - [**2146-12-11**] 10:28 PM 30 mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2146-12-11**] 03:13 PM
   20 Gauge - [**2146-12-11**] 04:21 PM
   Prophylaxis:
   DVT: heparin prophy
   Stress ulcer: PPI
   VAP:  HOB/peridex/mouthcare
   Communication:  Will update family
   Code status: Full code
   Disposition : Critically ill, remain in ICU post-extubation to assure
   stability
   Total time spent: 35minutes CCT

2146-12-13 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hypercarbia
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2146-12-12**] 01:00 PM
   Extubated
   Restarted metoprolol
   Got Bipap overnight
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   History obtained from [**Hospital 19**] Medical recordsErythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2146-12-12**] 09:30 AM
   Vancomycin - [**2146-12-12**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-12-12**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2146-12-12**] 04:21 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough
   Gastrointestinal: Nausea, Emesis
   Flowsheet Data as of  [**2146-12-13**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36
C (96.8
   HR: 78 (69 - 80) bpm
   BP: 145/59(92) {88/47(69) - 153/90(103)} mmHg
   RR: 21 (12 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.9 kg (admission): 97.9 kg
   Height: 64 Inch
             Total In:
                                                                  1,197 mL
                                                                    165 mL
   PO:
                                                                     50 mL
             TF:
                                                                    252 mL
   IVF:
                                                                    515 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                    275 mL
   Urine:
                                                                    675 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    522 mL
                                                                   -111 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 280 (280 - 310) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 71
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.32/81.[**Numeric Identifier **]/81.[**Numeric Identifier 252**]/40/12
   Ve: 5.7 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Bronchial: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   213 K/uL
   9.3 g/dL
   76 mg/dL
   2.2 mg/dL
   40 mEq/L
   4.0 mEq/L
   43 mg/dL
   104 mEq/L
   149 mEq/L
   30.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2146-12-11**]  07:28 AM
                             [**2146-12-11**]  04:04 PM
                             [**2146-12-12**]  03:08 AM
                             [**2146-12-12**]  03:18 AM
                             [**2146-12-12**]  06:19 AM
                             [**2146-12-12**]  06:23 AM
                             [**2146-12-12**]  12:52 PM
                             [**2146-12-12**]  02:34 PM
                             [**2146-12-12**]  08:34 PM
                             [**2146-12-13**]  03:14 AM
   WBC
   5.6
   5.2
   Hct
   31.1
   30.7
   Plt
   199
   213
   Cr
   2.4
   2.2
   TropT
   0.05
   TCO2
   45
   41
   46
   43
   44
   44
   44
   Glucose
   107
   76
   Other labs: CK / CKMB / Troponin-T:20//0.05, Lactic Acid:0.6 mmol/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR: [**12-12**]:
   The patient is status post intubation, with the
   endotracheal tube terminating 2.1 cm above the level of the carina. The
   lung
   volumes are low. There is persistent enlargement of the
   cardiomediastinal
   silhouette. The left and right costophrenic angles are not well
   visualized,
   suggestive of bilateral pleural effusion. There is persistent haziness
   of the
   bilateral hilar, compatible with mild pulmonary edema, largely
   unchanged since
   prior exam. There are no focal consolidations seen.
   Microbiology: Urine Cx [**12-11**]:
   URINE CULTURE (Preliminary):
         ESCHERICHIA COLI.    PRESUMPTIVE IDENTIFICATION.
            OF TWO COLONIAL MORPHOLOGIES.
   Legionella Urinary Antigen  (Final [**2146-12-12**]):
         NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN
   GRAM STAIN (Final [**2146-12-11**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   MULTIPLE ORGANISMS CONSISTENT
   WITH
                                       OROPHARYNGEAL FLORA.
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH Commensal Respiratory Flora
   Assessment and Plan
 VENTRICULAR TACHYCARDIA, NON-SUSTAINED (NSVT)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 .H/O URINARY TRACT INFECTION (UTI)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   This is an 81 yo female with end-stage COPD, DM2, CRF, anemia of renal
   disease, diastolic CHF, h/o DVT, PMR, OA, OSA, h/o C diff who presents
   with hypercarbic respiratory failure.
   #Hypercarbic respiratory failure: History of CO2 retention with CO2s
   running 60s-70s. Has previously been on BiPap at night to control CO2
   but more recently found that O2 sats of 91-92% sleeping at an angle
   were sufficient on recent hospitalization. Unclear precipitant of
   current decompensation but may have recieved too much O2 at rehab.
   Course complicated by left retrocardiac opacity and possible pneumonia.
   Now extubated but still slightly hypercarbic.
   -O2 sats 88-92%, Bipap at night, monitor ABGs
   -IS to bedside, chest PT
   -Decrease Prednisone to 50mg daily
   -Standing nebs
   -Stop Vanc as pneumonia less likely, con
t cefepime for UTI as below
    -F/U culture data
   .
   # NSVT: Likely from adrenergic surge. Improved with metoprolol
   - Metoprolol 25 mg PO TID
   .
   # ARF: Baseline of 2.0 and currently improved from last discharge at
   3.2. Likely resolving ATN. Appears euvolemic. Urine lytes consistent
   with pre-renal
   -Avoid further nephrotoxins
   -Maintain euvolemia
   .
   # Hypernatremia: D5W IV and encourage PO intake
   .
   # Swallowing difficulties: Speech and swallow consult
   .
   # UTI: Previous E.coli UTI isolated on culture prior to discharge on
   last admission. Not covered by levofloxacin she was d/c'd on. Current
   U/A only mildly positive.
   -Cefepime as above
   -F/U culture
   .
   # Diastolic CHF: Appears euvolemic currently.
   -Restart half of home lasix to maintain euvolemia (80mg PO daily)
   .
   # DM2: RISS
   .
   # Depression: Con't Escitalopram
   .
   # GERD: Con't PPI
   .
   # Osteoporosis: Con't calcium and alendronate
   .
   # PMR: Will be covered by PO steroids, when tapered, only go to home
   dose of 10mg PO daily.
   .
   # FEN: IVFs / replete lytes prn / try normal diet today
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: [**Last Name (LF) 1403**] , [**First Name3 (LF) **]
   # CODE:  Full for "reversible" processes
   # CONTACT: [**Name (NI) 310**] [**Name (NI) 315**], Husband and HCP, [**Telephone/Fax (1) 10375**]
   # DISPO: ICU, potentially call out later today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2146-12-11**] 03:13 PM
   20 Gauge - [**2146-12-11**] 04:21 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:

2146-12-13 10:32:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic respiratory failure
   HPI:
    81yoF with COPD, CHF, OSA; admitted with acute on chronic hypercarbic
   respiratory failure.  Extubated on [**12-12**].
   24 Hour Events:
   Extubated yesterday without difficulty.  Had nocturnal BiPAP which she
   tolerated.
   Allergies:
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2146-12-12**] 10:00 AM
   Cefipime - [**2146-12-13**] 08:16 AM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-12-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2146-12-13**] 08:00 AM
   Other medications:
   Fexofenadine
   Lexapro
   Insulin sliding scale
   Prednisone 60mg daily
   Colace
   Metoprolol
   Albuterol/ipatropium
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   None
   Flowsheet Data as of  [**2146-12-13**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 75 (69 - 79) bpm
   BP: 156/71(101) {88/48(74) - 164/90(110)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.9 kg (admission): 97.9 kg
   Height: 64 Inch
             Total In:
                                                                  1,197 mL
                                                                    755 mL
   PO:
                                                                     50 mL
             TF:
                                                                    252 mL
   IVF:
                                                                    515 mL
                                                                    755 mL
   Blood products:
   Total out:
                                                                    675 mL
                                                                    685 mL
   Urine:
                                                                    675 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    522 mL
                                                                     70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP
   Vt (Spontaneous): 280 (280 - 280) mL
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 71
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.32/81/81
   Ve: 5.7 L/min
   PaO2 / FiO2: 270
   Physical Examination
   Gen: Awake, disoriented to year, day; oriented to place.
   Chest: Poor airmovement throughout, no wheeze
   CV: RRR
   Abd: obese/s/nt
   Ext: Trace edema
   Labs / Radiology
   9.3 g/dL
   213 K/uL
   76 mg/dL
   2.2 mg/dL
   40 mEq/L
   4.0 mEq/L
   43 mg/dL
   104 mEq/L
   149 mEq/L
   30.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2146-12-11**]  07:28 AM
                             [**2146-12-11**]  04:04 PM
                             [**2146-12-12**]  03:08 AM
                             [**2146-12-12**]  03:18 AM
                             [**2146-12-12**]  06:19 AM
                             [**2146-12-12**]  06:23 AM
                             [**2146-12-12**]  12:52 PM
                             [**2146-12-12**]  02:34 PM
                             [**2146-12-12**]  08:34 PM
                             [**2146-12-13**]  03:14 AM
   WBC
   5.6
   5.2
   Hct
   31.1
   30.7
   Plt
   199
   213
   Cr
   2.4
   2.2
   TropT
   0.05
   TCO2
   45
   41
   46
   43
   44
   44
   44
   Glucose
   107
   76
   Other labs: CK / CKMB / Troponin-T:20//0.05, Lactic Acid:0.6 mmol/L,
   Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Micro: respiratory flora
   Urine culture: ecoli
   CXR: pulmonary edema
   Assessment and Plan
   81yoF admitted with respiratory failure in setting of COPD, likely
   OHS/OSA, CHF.
   1.  Respiratory Failure:  extubated yesterday.
   - She should get nocturnal BiPAP; might need titration of settings.
   Would increase BiPAP to 14/8 cm
   - Check ABG now
   - Taper prednisone to 40mg daily
   - Continue albuterol/atrovent
   2.  ID:  No clear evidence of PNA.  + UTI
   - d/c vancomycin
   - continue cefipime and await sensitivities of urine culture
   3.  CV:  NSVT prior to extubation, improved on metoprolol
   - continue metoprolol
   4.  Renal:  Cr improving.
   - restarted home dose of lasix; aim for TBB even to slightly negative
   today.
   ICU Care
   Nutrition: Speech and swallow evaluation
   Glycemic Control:   Insulin
   Lines:
   Arterial Line - [**2146-12-11**] 03:13 PM; discontinue aline
   20 Gauge - [**2146-12-11**] 04:21 PM
   Prophylaxis:
   DVT:  heparin
   Stress ulcer:  PPI
   Communication:  Will update family today
   Code status: Full code
   Disposition : Repeat ABG, may be ready for floor later today
   Total time spent: 35 minutes

2146-12-14 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2146-12-13**] 10:49 AM
 TRANSTHORACIC ECHO - At [**2146-12-13**] 02:21 PM
   Repeat ABG was good at 7.39/70/52
   Titrated up Metoprolol
   S+S recommended nectar thick liquids and puree
   A-line stopped drawing so d/c'd
   Increased Bipap to 14/8 from 14/4 for overnight
   Stopped vancomycin, kept cefepime until e.coli sensi back
   Decreased prednisone to 50
   Ordered TTE
   Not called out due to frequency of O2 adjustments/significant desats
   with exertion
   Allergies:
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2146-12-12**] 10:00 AM
   Cefipime - [**2146-12-13**] 08:16 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-12-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2146-12-14**] 12:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-12-14**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.2
C (97.2
   HR: 64 (61 - 80) bpm
   BP: 96/48(61) {92/29(45) - 146/71(89)} mmHg
   RR: 31 (14 - 31) insp/min
   SpO2: 90%
   Heart rhythm: SA (Sinus Arrhythmia)
   Wgt (current): 101.8 kg (admission): 97.9 kg
   Height: 64 Inch
                  Total In:
                                                                  2,230 mL
                  PO:
                                                                     30 mL
                  TF:
   IVF:
                                                                  2,200 mL
   Blood products:
   Total out:
                                                                  1,785 mL
                                                                    570 mL
   Urine:
                                                                  1,785 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    445 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.39/70/52/40/13
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   241 K/uL
   9.6 g/dL
   87 mg/dL
   2.2 mg/dL
   40 mEq/L
   3.6 mEq/L
   37 mg/dL
   97 mEq/L
   144 mEq/L
   30.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2146-12-12**]  03:08 AM
                             [**2146-12-12**]  03:18 AM
                             [**2146-12-12**]  06:19 AM
                             [**2146-12-12**]  06:23 AM
                             [**2146-12-12**]  12:52 PM
                             [**2146-12-12**]  02:34 PM
                             [**2146-12-12**]  08:34 PM
                             [**2146-12-13**]  03:14 AM
                             [**2146-12-13**]  11:22 AM
                             [**2146-12-14**]  03:49 AM
   WBC
   5.6
   5.2
   5.8
   Hct
   31.1
   30.7
   30.1
   Plt
   199
   213
   241
   Cr
   2.4
   2.2
   2.2
   TropT
   0.05
   TCO2
   46
   43
   44
   44
   44
   44
   Glucose
   107
   76
   87
   Other labs: CK / CKMB / Troponin-T:20//0.05, Lactic Acid:0.6 mmol/L,
   Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   This is an 81 yo female with end-stage COPD, DM2, CRF, anemia of renal
   disease, diastolic CHF, h/o DVT, PMR, OA, OSA, h/o C diff who presents
   with hypercarbic respiratory failure.
   #Hypercarbic respiratory failure: History of CO2 retention with CO2s
   running 60s-70s. Has previously been on BiPap at night to control CO2
   but more recently found that O2 sats of 91-92% sleeping at an angle
   were sufficient on recent hospitalization. Unclear precipitant of
   current decompensation but may have recieved too much O2 at rehab.
   Course complicated by left retrocardiac opacity and possible pneumonia.
   Now extubated but still slightly hypercarbic.
   -O2 sats 88-92%, Bipap at night, monitor ABGs
   -IS to bedside, chest PT
   -Decrease Prednisone to 50mg daily
   -Standing nebs
   -Stop Vanc as pneumonia less likely, con
t cefepime for UTI as below
    -F/U culture data
   .
   # NSVT: Likely from adrenergic surge. Improved with metoprolol
   - Metoprolol 25 mg PO TID
   .
   # ARF: Baseline of 2.0 and currently improved from last discharge at
   3.2. Likely resolving ATN. Appears euvolemic. Urine lytes consistent
   with pre-renal
   -Avoid further nephrotoxins
   -Maintain euvolemia
   .
   # Hypernatremia: D5W IV and encourage PO intake
   .
   # Swallowing difficulties: Speech and swallow consult
   .
   # UTI: Previous E.coli UTI isolated on culture prior to discharge on
   last admission. Not covered by levofloxacin she was d/c'd on. Current
   U/A only mildly positive.
   -Cefepime as above
   -F/U culture
   .
   # Diastolic CHF: Appears euvolemic currently.
   -Restart half of home lasix to maintain euvolemia (80mg PO daily)
   .
   # DM2: RISS
   .
   # Depression: Con't Escitalopram
   .
   # GERD: Con't PPI
   .
   # Osteoporosis: Con't calcium and alendronate
   .
   # PMR: Will be covered by PO steroids, when tapered, only go to home
   dose of 10mg PO daily.
   .
   # FEN: IVFs / replete lytes prn / try normal diet today
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: [**Last Name (LF) 1403**] , [**First Name3 (LF) **]
   # CODE:  Full for "reversible" processes
   # CONTACT: [**Name (NI) 310**] [**Name (NI) 315**], Husband and HCP, [**Telephone/Fax (1) 10375**]
   # DISPO: ICU, potentially call out later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2146-12-11**] 04:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2146-12-14 10:35:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic respiratory failure
   HPI:
   81yoF with COPD, CAD; here with hypercarbic respiratory failure
   24 Hour Events:
   TTE with RV hypokinesis; normal LV function.
   Evaluated by speech pathology regarding diet recs.
   Tolerated new settings of BiPAP.
   Allergies:
   Erythromycin Base
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2146-12-14**] 09:03 AM
   Other ICU medications:
   Pantoprazole (Protonix) - [**2146-12-14**] 09:03 AM
   Heparin Sodium (Prophylaxis) - [**2146-12-14**] 09:03 AM
   Other medications:
   Fosamax
   [**Doctor First Name 877**]
   Lexapro
   Colace
   Albuterol
   Atrovent
   Lopressor
   Lasix
   Prednisone 50mg daily
   Changes to medical and family history:
   No change
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-12-14**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 77 (61 - 80) bpm
   BP: 122/52(66) {92/29(45) - 146/71(89)} mmHg
   RR: 18 (14 - 31) insp/min
   SpO2: 88%
   Heart rhythm: SA (Sinus Arrhythmia)
   Wgt (current): 101.8 kg (admission): 97.9 kg
   Height: 64 Inch
             Total In:
                                                                  2,230 mL
                                                                    110 mL
   PO:
                                                                     30 mL
                                                                     50 mL
   TF:
   IVF:
                                                                  2,200 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  1,785 mL
                                                                    720 mL
   Urine:
                                                                  1,785 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    445 mL
                                                                   -610 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 88%
   ABG: 7.39/70/52/40/13
   Physical Examination
   Gen: awake, alert; oriented to place; year is
1900
   CV:RRR
   Chest: clear anterior lungs but diminished breath sounds.  No wheeze
   Abd: s/nt/obese
   Ext: 1+ edema
   Labs / Radiology
   9.6 g/dL
   241 K/uL
   87 mg/dL
   2.2 mg/dL
   40 mEq/L
   3.6 mEq/L
   37 mg/dL
   97 mEq/L
   144 mEq/L
   30.1 %
   5.8 K/uL
        [image002.jpg]
                             [**2146-12-12**]  03:08 AM
                             [**2146-12-12**]  03:18 AM
                             [**2146-12-12**]  06:19 AM
                             [**2146-12-12**]  06:23 AM
                             [**2146-12-12**]  12:52 PM
                             [**2146-12-12**]  02:34 PM
                             [**2146-12-12**]  08:34 PM
                             [**2146-12-13**]  03:14 AM
                             [**2146-12-13**]  11:22 AM
                             [**2146-12-14**]  03:49 AM
   WBC
   5.6
   5.2
   5.8
   Hct
   31.1
   30.7
   30.1
   Plt
   199
   213
   241
   Cr
   2.4
   2.2
   2.2
   TropT
   0.05
   TCO2
   46
   43
   44
   44
   44
   44
   Glucose
   107
   76
   87
   Other labs: CK / CKMB / Troponin-T:20//0.05, Lactic Acid:0.6 mmol/L,
   Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Micro:  cultures: no growth to date.
   Assessment and Plan
   81yoF with COPD, CAD, OSA/OHS, CHF; here with hypercarbic respiratory
   failure.
   1.       Respiratory Failure:  improving; chronically hypoxemic with
   multiple etiologies.  Better PaCO2 on BiPAP overnight.
   - restart home dose of lasix; likely mildly hypervolemic; continue
   gentle diuresis given improving renal failure.
   - Change home bipap settings (14/8).
   - Decrease prednisone to 40mg, plan taper.
   2.       CV:
   - metoprolol for NSVT
   - home dose lasix
   3.       Renal:  Cr to 2.2
   - restarting home dose of lasix
   - Replete electrolytes
   4.       UTI:
   -          complete course for UTI
   5.       OSA
   -      would continue BiPAP 14/8 cm and discharge home on these
   settings. Ideally should follow up in sleep disorders clinic.
   ICU Care
   Nutrition: PO per speech recs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2146-12-11**] 04:21 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP:  Not intubated
   Communication:  Comments: Patient updated during rounds.
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:  30minutes